US07176242B2
3-[5-(3-Methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoic acid
To 3-[5-(2-carboxyethyl)-1,3-oxazol-2-yl]benzoic acid (317 mg, 1.2 mmol) in methanol (5 mL) is added thionyl chloride (4.4 μL, 0.06 mmol), and the reaction is stirred at room temperature 16 h. The solution is concentrated under reduced pressure to give the title compound. ESI MS m/z 274.1 [M−H]−.

reactant | 3-[5-(2-carboxyethyl)-1,3-oxazol-2-yl]benzoic acid | 1.2 mmol, 317 mg | C(=O)(O)CCC1=CN=C(O1)C=1C=C(C(=O)O)C=CC1 | C13H11NO5
reactant | thionyl chloride | 0.06 mmol, 4.4 μL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 5 mL | CO | CH4O
product | 3-[5-(3-Methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoic acid | COC(CCC1=CN=C(O1)C=1C=C(C(=O)O)C=CC1)=O | C14H13NO5
